US05679623
Example H8: 2,3-Dihydro-3-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-4-tert-butyl-1H-imidazole (compound no. 9.2 in table 9).
4.3 g of 3-formylpyridine and two drops of concentrated hydrochloric acid are added to a solution of 6.8 g of 1-amino-2,3-dihydro-3-methyl-2-oxo-4-tert-butyl-1H-imidazole in 50 ml of ethanol. The reaction mixture is refluxed for 30 minutes with stirring and then substantially concentrated. The liquid residue is dissolved in a small amount of diethyl ether, and the solution is cooled to 0°. The crystals which have separated out are filtered off with suction and dried. This gives the title compound which melts at 116°-121°.

reactant | 3-formylpyridine | 4.3 g | C(=O)C=1C=NC=CC1 | C6H5NO
reactant | 1-amino-2,3-dihydro-3-methyl-2-oxo-4-tert-butyl-1H-imidazole | 6.8 g | NN1C(N(C(=C1)C(C)(C)C)C)=O | C8H15N3O
catalyst | hydrochloric acid | two drops | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,3-Dihydro-3-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-4-tert-butyl-1H-imidazole | CN1C(N(C=C1C(C)(C)C)N=CC=1C=NC=CC1)=O | C14H18N4O
